US06156700
Preparation of 5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-α,α-dimethyl-1,2-benzisothiazole-3-acetic acid
To a solution of ethyl 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-α,α-dimethyl-1,2-benzisothiazole-3-acetate (6.30 g, 0.0143 mol) in methylene chloride at 0° C. is added boron tribromide in methylene chloride (1.0 M, 100 ml, 0.100 mol) such that the temperature does not exceed 15° C. The resultant mixture is stirred one hour at ambient temperature, quenched with 3 N hydrochloric acid, and diluted with methylene chloride. The organic layer is separated, washed sequentially with water and brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo to give the title compound as an off-white solid (mp 155-156° C.) which is identified by NMR and IR spectral analyses.

reactant | ethyl 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-α,α-dimethyl-1,2-benzisothiazole-3-acetate | 0.0143 mol, 6.30 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C(C(=O)OCC)(C)C)C1)=O | C19H18F3N3O4S
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.100 mol, 1.0 M, 100 ml | C(Cl)Cl | CH2Cl2
product | 5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-α,α-dimethyl-1,2-benzisothiazole-3-acetic acid | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C(C(=O)O)(C)C)C1)=O | C17H14F3N3O4S
